US07491718B2
methyl 2-amino-5,6,7,8-tetrahydro-1-naphthoate
A 500 mL RB flask was charged with Example 128B (13.66 g, 47.54 mmol), benzene (190 mL), and MeOH (48 mL). To this stirred solution under N2 was added TMSCHN2 (30.9 mL, 61.81 mmol, 2.0M solution in hexanes). The reaction was stirred at room temperature for 1 hour, then quenched with 3 mL glacial AcOH. The solvent was evaporated to dryness to give a residue. The residue was dissolved in 150 mL AcOH. PtO2 (7.00 g) was added to a 500 mL reaction vessel for a Parr shaker, then purged with Ar. The solution of the residue in AcOH was then added. The vessel was fitted to the Parr shaker and charged with H2 to 60 psi (fill and vent 3×). The shaker was run for 3 hours, then filtered and evaporated to dryness to yield a solid residue. A 500 mL RB flask was charged with the residue and CH2Cl2 (154 mL). To this flask was added TFA (26 mL). The reaction was stirred for 3 hours, then transferred to a separatory funnel. The organic layer was washed with NaOH (2×250 mL) and brine (200 mL), dried over MgSO4, filtered, and evaporated to dryness to give the desired product (8.72 g, 91%). MS (ESI+Q1MS) m/e 206 (M+H)+; 1H-NMR (DMSO) δ 6.83 (d, 1H), 6.52 (d, 2H), 5.26 (s, 2H), 3.78 (s, 3H), 2.62 (m, 2H), 2.56 (m, 2H), 1.63 (quint., 4H).

reactant | benzene | 190 mL | C1=CC=CC=C1 | C6H6
reactant | MeOH | 48 mL | CO | CH4O
reactant | TMSCHN2 | 61.81 mmol, 2.0M, 30.9 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | TFA | 26 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | AcOH | 150 mL | CC(=O)O | C2H4O2
catalyst | PtO2 | 7.00 g | O=[Pt]=O
solvent | CH2Cl2 | 154 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-amino-5,6,7,8-tetrahydro-1-naphthoate | 8.72 g, 91% | NC1=C(C=2CCCCC2C=C1)C(=O)OC | C12H15NO2
